US07772246B2
A mixture 4-(1-isopropyl-3-(1H-pyrrolo[2,3-b]pyridin-5-yl)-1H-pyrazol-4-yl)pyridin-2-amine (H-1-10) (40 mg, 0.13 mmol) and N-chlorosuccinimide (19.3 mg, 0.14 mmol) in CH2Cl2 (2 ml) was stirred at room temperature for 18 hours. Another portion of N-chlorosuccinimide (5 mg, 0.04 mmol) was added and stirring continued at room temperature for an additional 4 hours. The reaction was concentrated under reduced pressure and the residue was purified by reverse phase HPLC to give 14 mg (31% yield) 4-(3-(3-chloro-1H-pyrrolo[2,3-b]pyridin-5-yl)-1-isopropyl-1H-pyrazol-4-yl)pyridin-2-amine (H-1) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.51 (d, J=6.82 Hz, 6H) 4.43-4.69 (m, 1H) 6.22-6.63 (m, 4H) 7.72 (d, J=2.78 Hz, 1H) 7.82 (d, J=5.81 Hz, 1H) 7.92 (d, J=1.77 Hz, 1H) 8.23 (s, 1H) 8.30 (d, J=2.02 Hz, 1H) 12.08 (d, J=1.77 Hz, 1H).

reactant | 4-(1-isopropyl-3-(1H-pyrrolo[2,3-b]pyridin-5-yl)-1H-pyrazol-4-yl)pyridin-2-amine | 0.13 mmol, 40 mg | C(C)(C)N1N=C(C(=C1)C1=CC(=NC=C1)N)C=1C=C2C(=NC1)NC=C2 | C18H18N6
reactant | N-chlorosuccinimide | 0.14 mmol, 19.3 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.04 mmol, 5 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-(3-chloro-1H-pyrrolo[2,3-b]pyridin-5-yl)-1-isopropyl-1H-pyrazol-4-yl)pyridin-2-amine | 14 mg, 31% yield | ClC1=CNC2=NC=C(C=C21)C2=NN(C=C2C2=CC(=NC=C2)N)C(C)C | C18H17ClN6
